US09108983B2
Step A: Benzyl (3S)-3-(hydroxymethyl)-3,4-dihydro-1H-isoquinoline-2-carboxylate
This compound is obtained using a protocol from the literature (R. B. Kawthekar et al South Africa Journal of Chemistry 63, 195, 2009) starting from 15 g of (3S)-1,2,3,4-tetrahydroisoquinolin-3-ylmethanol (91.9 mmol) in the presence of benzyl chloroformate and triethylamine in solution in dichloromethane. After purification by chromatography over silica gel using petroleum ether and ethyl acetate as eluants, the title product is obtained in the form of an oil.

reactant | (3S)-1,2,3,4-tetrahydroisoquinolin-3-ylmethanol | 91.9 mmol, 15 g | C1N[C@@H](CC2=CC=CC=C12)CO | C10H13NO
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | Benzyl (3S)-3-(hydroxymethyl)-3,4-dihydro-1H-isoquinoline-2-carboxylate | OC[C@H]1N(CC2=CC=CC=C2C1)C(=O)OCC1=CC=CC=C1 | C18H19NO3
